US04743604
387 mg of (RS)-1-[[(R)-3-[α-(butylamino)-p-tolyl]-1-methylpropyl]amino]-3-phenoxy-2-propanol, 102 mg of methyl glyoxylate and 195 mg of p-toluenesulfonic acid monohydrate in 5 ml of benzene were stirred at 20°-25° C. for 6 hours. The mixture was worked up with ether and sodium bicarbonate solution. Chromatography of the crude product on silica gel with ether-methanol gave methyl(2RS,5RS)-3-[(R)-3-[α-(butylamino)-p-tolyl]-1-methylpropyl]-5-phenoxymethyl-2-oxazolidinecarboxylate, [α]D =-9° (c=0,1 in methanol); ε219 =18140, ε270 =1830, ε277 =1430.

reactant | (RS)-1-[[(R)-3-[α-(butylamino)-p-tolyl]-1-methylpropyl]amino]-3-phenoxy-2-propanol | 387 mg | C(CCC)NCC1=CC=C(C=C1)CC[C@@H](C)NCC(COC1=CC=CC=C1)O | C24H36N2O2
reactant | methyl glyoxylate | 102 mg | C(C=O)(=O)OC | C3H4O3
reactant | p-toluenesulfonic acid monohydrate | 195 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | methyl(2RS,5RS)-3-[(R)-3-[α-(butylamino)-p-tolyl]-1-methylpropyl]-5-phenoxymethyl-2-oxazolidinecarboxylate | C(CCC)NCC1=CC=C(C=C1)CC[C@@H](C)N1C(OC(C1)COC1=CC=CC=C1)C(=O)OC | C27H38N2O4
